2155-10-12 12:29:00 Physician Resident Progress Note
Chief Complaint: 82 y/o M w/ CAD, s/p CABG, A. Fib/flutter, presents
   with frequent sinus pauses in setting of restarting beta-blocker.
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2155-10-11**] 09:50 AM
 EKG - At [**2155-10-12**] 06:53 AM
   rhythm changed to aflutter
   Sick Sinus syndrome s/p temp wire. Pacer planned for [**10-14**]. Today
   converted to A Flutter.
   S: Patient feeling well. No acute complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2155-10-12**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2155-10-11**] 02:00 PM
   Other medications:
   CefazoLIN 2 g IV Q12H
   Acetaminophen 325-650 mg PO
   Senna 1 TAB PO BID:PRN
   Docusate Sodium 100 mg PO BID
   Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing
   Irbesartan *NF* 300 mg Oral q24
   Hydrochlorothiazide 12.5 mg PO DAILY
    Multivitamins 1 TAB PO DAILY
   Clopidogrel 75 mg PO DAILY
   Atorvastatin 20 mg PO DAILY
   Calcium Carbonate 1000 mg PO BID
    Aspirin 81 mg PO DAILY
   DOPamine 2-10 mcg/kg/min IV DRIP
   Heparin 5000 UNIT SC TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-10-12**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 50 (50 - 68) bpm
   BP: 124/54(73) {98/25(55) - 149/95(99)} mmHg
   RR: 20 (12 - 30) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 68 Inch
             Total In:
                                                                  1,541 mL
                                                                  1,042 mL
   PO:
                                                                    720 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    277 mL
                                                                    322 mL
   Blood products:
                                                                    544 mL
   Total out:
                                                                  1,215 mL
                                                                    970 mL
   Urine:
                                                                  1,215 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    326 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   12.8 g/dL
   76 mg/dL
   1.1 mg/dL
   30 mEq/L
   3.8 mEq/L
   20 mg/dL
   106 mEq/L
   143 mEq/L
   37.0 %
   6.8 K/uL
        [image002.jpg]
                            [**2155-10-11**]  04:09 PM
                            [**2155-10-12**]  06:34 AM
   WBC
   7.4
   6.8
   Hct
   36.1
   37.0
   Plt
   186
   181
   Cr
   1.1
   1.1
   TropT
   0.12
   Glucose
   91
   76
   Other labs: PT / PTT / INR:20.2/40.1/1.9, CK / CKMB /
   Troponin-T:86//0.12, Differential-Neuts:81.6 %, Lymph:9.9 %, Mono:6.7
   %, Eos:1.5 %, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN
   82 y/o M w/ CAD, s/p CABG, A. Fib/flutter, presents with frequent sinus
   pauses in setting of restarting beta-blocker. Sick Sinus syndrome s/p
   temp wire. Pacer planned for [**10-14**]. Today converted to A Flutter.
   .
   # RHYTHM: Currenlty A Flutter. Temp pacer placed for sick sinus
   syndrome. Pacer planned for [**10-14**].
   - INR < 2: Start Heparin ggt goal 50-70 ptt
   .
   # CORONARIES: Continue Aspirin 81mg [**Last Name (un) **], plavix, lipid panel in AM
   .
   # PUMP: No acute decompensation at this time.
   - Continue anti-hypertensives
   .
   # Hyperlipidemia:  Continue statin
   .
   # Osteoarthritis
   -Continue outpatient medications
   .
   # Wheezing: no dx of lung disease.
   - Albuterol PRN
   .
   FEN: Cardiac diet. Needs to be NPO monday night.
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with heparin ggt
   -Pain managment with tylenol
   -Bowel regimen
   CODE: presumed full
   DISPO: CCU